US04293557
A solution of 2.6 g of 3-hydroxybenzyl alcohol in 10 ml of dry dimethylsulfoxide was added dropwise with stirring under ice cooling to a suspension of 0.88 g of 60% sodium hydride in 5 ml of dry dimethylsulfoxide. After the addition, the mixture was stirred at room temperature for 20 minutes, and 6 g of N-bromopropylphthalimide was added. The mixture was reacted at room temperature for 1 hour, and ice water was added. The mixture was extracted with ether, washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was crystallized with ether to afford 2.6 g of N-[3-[3-(hydroxymethyl)phenoxy]propyl]phthalimide.

reactant | 3-hydroxybenzyl alcohol | 2.6 g | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | N-bromopropylphthalimide | 6 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | N-[3-[3-(hydroxymethyl)phenoxy]propyl]phthalimide | 2.6 g | OCC=1C=C(OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C18H17NO4
